US05238837
Synthesis of methyl 18-phthalimidooctadecanoate
A mixture of potassium phthalimide (2.96 g, 16.0 mmoles) and 100 ml of dried N,N-dimethylformamide was heated at 110° C. To this mixture was added dropwise 80 ml of a solution of methyl 18 tosyloxyoctadecanoate (5.0 g, 10.7 mmoles) in 80 ml of N,N-dimethylformamide, and the mixture was heated with stirring at 110° C. for 2 hours. The reaction mixture was poured into ice water to a total volume of 1.2 1, and stirred for 30 minutes. Thereafter, the precipitates that formed were collected by filtration and dissolved in chloroform. The obtained solution was washed with water and then with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and isolated and purified by silica 9el column chromatography [eluent: mixture of benzene and methylene chloride (volume ratio: 2:1)], to give methyl 18-phtahlimideocatadecanoate (4.15 g, 88%) having the following properties.

reactant | potassium phthalimide | 16.0 mmoles, 2.96 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methyl 18 tosyloxyoctadecanoate | 10.7 mmoles, 5.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCCCCCCCCCC(=O)OC | C26H44O5S
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 18-phthalimidooctadecanoate | C1(C=2C(C(N1CCCCCCCCCCCCCCCCCC(=O)OC)=O)=CC=CC2)=O | C27H41NO4
